US07820707B2
a) Pinacolone Semicarbazone
Pinacolone (10 g, 99.8 mmol) was added to a solution of semicarbazide hydrochloride (11.13 g, 99.8 mmol) and sodium acetate (16.4 g, 199 mmol) in water (60 mL). The mixture was stirred for 17 h at ambient temperature. The white precipitate was filtered and washed with water and diethyl ether. The solid was dried under vacuo at 50° C. to yield the desired product (11.09 g, 70.5 mmol, 71%).

reactant | Pinacolone | 99.8 mmol, 10 g | CC(C(C)(C)C)=O | C6H12O
reactant | semicarbazide hydrochloride | 99.8 mmol, 11.13 g | Cl.NNC(=O)N
reactant | sodium acetate | 199 mmol, 16.4 g | C(C)(=O)[O-].[Na+]
solvent | water | 60 mL | O | H2O
product | Pinacolone Semicarbazone | 70.5 mmol, 11.09 g, 71% | CC(C(C)(C)C)=NNC(=O)N | C7H15N3O
